US08048903B2
5-Iodo-1-butyltetrazole
In an atmosphere of inert gas, 0.032 mol (20 ml) of butyllithium (1.6M in hexane) is added dropwise to a solution, cooled to −78° C., of 0.03 mol (3.78 g) of 1-butyltetrazole in 40 ml of anhydrous tetrahydrofuran such that the temperature of the reaction mixture does not exceed −70° C. The mixture is stirred at this temperature for 30 minutes, and 0.03 mol (7.61 g) of iodine in 10 ml of anhydrous tetrahydrofuran is then added dropwise. After 30 minutes of stirring at this temperature, the reaction mixture is warmed to −30° C., and 1 ml of water is added carefully. The solvent is distilled off under reduced pressure and the residue is taken up in ethyl acetate/water. The aqueous phase is extracted with ethyl acetate and the combined organic phase is washed with sodium thiosulfate solution and saturated sodium chloride solution and dried over sodium sulfate. The residue obtained after distillative removal of solvent under reduced pressure is purified chromatographically (mobile phase: chloroform). This gives 2.2 g (30%) of 5-iodo-1-butyltetrazole

reactant | butyllithium | 0.032 mol, 1.6M, 20 ml | C(CCC)[Li]
reactant | 1-butyltetrazole | 0.03 mol, 3.78 g | C(CCC)N1N=NN=C1 | C5H10N4
reactant | iodine | 0.03 mol, 7.61 g | II | I2
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Iodo-1-butyltetrazole | IC1=NN=NN1CCCC | C5H9IN4
